US05240943
N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]-3-phenyl-2E-propenamide
N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-aminopiperidine was coupled to 3-phenyl-2E-propenoic acid utilizing the isobutylchloroformate protocol described in Example 6. This afforded the title compound; (61% yield) m.p. 168-70°, Anal: C25H30N2O2 0.3 H2O, Calc. C, 75.84; H, 7.79; N, 7.08; Found, C, 75.90; H, 7.94; N, 7.32.

reactant | 1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-aminopiperidine | O1CCC(C2=C1C=CC=C2)CCN2CCC(CC2)N | C16H24N2O
reactant | 3-phenyl-2E-propenoic acid | C1(=CC=CC=C1)/C=C/C(=O)O | C9H8O2
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
product | N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]-3-phenyl-2E-propenamide | 61% yield | O1CCC(C2=C1C=CC=C2)CCN2CCC(CC2)NC(\C=C\C2=CC=CC=C2)=O | C25H30N2O2
